MM10 (net27 net12 VSS VSS) nmos4
MM9 (net21 net12 VSS VSS) nmos4
MM8 (net12 net1003 net27 VSS) nmos4
MM7 (net8 net1003 net21 VSS) nmos4
MM3 (net32 VREF1 net10 VSS) nmos4
MM0 (net26 net20 net10 VSS) nmos4
MM4 (net10 net1001 VSS VSS) nmos4
MM6 (net12 VB2 net26 VDD) pmos4
MM5 (net8 VB2 net32 VDD) pmos4
MM1 (net32 VB1 VDD VDD) pmos4
MM2 (net26 VB1 VDD VDD) pmos4
MM15 (net1003 net1003 net1001 VSS) nmos4
MM13 (net1001 net1001 VSS VSS) nmos4
MM14 (net1003 net1006 VDD VDD) pmos4
MM3 (net1006 net1006 VDD VDD) pmos4
MM1 (VB3 net1006 VDD VDD) pmos4
RR0 (net15 VSS) resistor
MM0 (VB3 VB3 VSS VSS) nmos4
MM2 (net1006 VB3 net15 VSS) nmos4
M3 (net21 net8 VOUT1 VDD) pmos4
M1 (VOUT1 net12 VDD VDD) pmos4
M0 (net12 VB4 VDD VDD) pmos4
M4 (net21 VB6 VSS VSS) nmos4
M2 (net12 VB5 net21 VSS) nmos4
R1 (net20 VSS) resistor
R0 (VOUT1 net20) resistor
C1 (net8 VSS) capacitor
C0 (net12 VOUT1) capacitor